US05189046
To a solution of 230 mL (0.23 mmol) of 1M lithium aluminum hydride in THF was added over 20 min a solution of (S)-N-benzylpiperidine-2-carboxamide in 150 mL of THF. The mixture was refluxed for 5 h, diluted with 500 ml of THF, cooled to -78° C. and quenched with a solution of 48 mL 1N aqueous sodium hydroxide in 200 mL THF. The resulting slurry was filtered through a Celite® pad and concentrated at reduced pressure to yield (S)-N-benzyl-2-aminomethylpiperidine (10.9 g, 89%).

reactant | lithium aluminum hydride | 0.23 mmol, 1M, 230 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-N-benzylpiperidine-2-carboxamide | C(C1=CC=CC=C1)NC(=O)[C@H]1NCCCC1 | C13H18N2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | (S)-N-benzyl-2-aminomethylpiperidine | 10.9 g, 89% | C(C1=CC=CC=C1)N1[C@@H](CCCC1)CN | C13H20N2
